US07319104B2
4-(4-bromophenyl)-2-cyclopropyl-1,3-oxazole
To a mixture of 2-(4-bromophenyl)-2-oxoethyl cyclopropane carboxylate (6.00 g, 21.19 mmol) and acetamide (6.60 g, 111.73 mmol) was added BF3/Et2O (4 ml). The mixture was heated to 140C for 2.5 h. Upon cooling, water was added, and the mixture was extracted with Et2O (4×125 ml). The combined organic phases were dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (CH2Cl2/hexanes, 7:3) to provide the title compound as a yellow solid (3.61 g, 64%).

reactant | 2-(4-bromophenyl)-2-oxoethyl cyclopropane carboxylate | 21.19 mmol, 6.00 g | C1(CC1)C(=O)OCC(=O)C1=CC=C(C=C1)Br | C12H11BrO3
reactant | acetamide | 111.73 mmol, 6.60 g | C(C)(=O)N | C2H5NO
reactant | BF3 Et2O | 4 ml | B(F)(F)F.CCOCC
solvent | water | O | H2O
product | 4-(4-bromophenyl)-2-cyclopropyl-1,3-oxazole | 3.61 g, 64% | BrC1=CC=C(C=C1)C=1N=C(OC1)C1CC1 | C12H10BrNO
